US07858624B2
A solution of (3R)-tert-butyl 3-((2-azidoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)piperidine-1-carboxylate (0.89 g) in methanol (20 mL) was added to wetted Pd/C (200 mg). After 3 cycles of evacuation and refilling with H2, a balloon of H2 was attached to the vessel and the mixture was stirred overnight. The reaction mixture was filtered through a pad of Celite and the solvent was removed to give the crude amine. Purification by preparative HPLC gave (3R)-tert-butyl 3-((R)-(2-aminoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)piperidine-1-carboxylate (220 mg, 26%). 1H NMR (400 MHz, CDCl3): 1.10 (m, 2H), 1.43 (s, 9H), 1.49 (m, 2H), 1.89 (m, 1H), 2.10 (m, 1H), 2.39 (s, 3H), 3.16 (m, 2H), 3.51 (m, 2H), 4.15 (m, 1H), 6.97 (m, 3H), 7.10 (m, 1H), 7.30-7.48 (m, 3H).

reactant | (3R)-tert-butyl 3-((2-azidoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)piperidine-1-carboxylate | 0.89 g | N(=[N+]=[N-])CCOC([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)F)C1=CC(=CC=C1)C | C26H33FN4O3
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | (3R)-tert-butyl 3-((R)-(2-aminoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)piperidine-1-carboxylate | 220 mg, 26% | NCCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)F)C1=CC(=CC=C1)C | C26H35FN2O3
